US04579861
[G] 1-Phenyl-3-(2-bromoethyl)hydantoin
A mixture of 1-phenylhydantoin (5 g, 28.3 mmoles), 85% potassium hydroxide (2.06 g, 31.2 mmoles), 1,2-dibromoethane (11.72 g, 62.4 mmoles) and potassium iodide (catalytic amounts) in 100 ml of ethanol was refluxed for 67 hours. The solid was filtered, the mother liquors were evaporated and the crude product was purified by silica gel column chromatography eluting with increasing mixtures of ethyl acetate in hexane. By crystallization from acetone/hexane 1.56 g of the title compound were obtained, m.p. 146°-147° C.

reactant | 1-phenylhydantoin | 28.3 mmoles, 5 g | C1(=CC=CC=C1)N1C(=O)NC(=O)C1 | C9H8N2O2
reactant | potassium hydroxide | 31.2 mmoles, 2.06 g | [OH-].[K+]
reactant | 1,2-dibromoethane | 62.4 mmoles, 11.72 g | BrCCBr | C2H4Br2
reactant | potassium iodide | [I-].[K+]
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 1-Phenyl-3-(2-bromoethyl)hydantoin | C1(=CC=CC=C1)N1C(=O)N(C(=O)C1)CCBr | C11H11BrN2O2
